US08426447B2
A solution of 7-bromo-3-(3-iodo-2-methoxy-2-methylpropoxy)-5H-chromeno[2,3-b]pyridin-5-one (4.10 g, 8.13 mmol) in 100 mL THF was cooled to −40° C. and was treated with methylmagnesium chloride (5.42 mL, 16.27 mmol). After stirring for two hours, the reaction mixture was allowed to warm to room temperature and superhydride (40.7 mL, 40.7 mmol) was added. After stirring for an additional 2 hours the reaction mixture was cooled to 0° C. and was quenched with MeOH. The reaction mixture was poured into saturated NH4Cl solution and was extracted with EtOAc. The organics were washed with water, brine, dried over MgSO4 and concentrated yielding 7-bromo-3-(2-methoxy-2-methylpropoxy)-5-methyl-5H-chromeno[2,3-b]pyridin-5-ol.

reactant | 7-bromo-3-(3-iodo-2-methoxy-2-methylpropoxy)-5H-chromeno[2,3-b]pyridin-5-one | 8.13 mmol, 4.10 g | BrC=1C=C2C(C=3C(=NC=C(C3)OCC(CI)(C)OC)OC2=CC1)=O | C17H15BrINO4
reactant | methylmagnesium chloride | 16.27 mmol, 5.42 mL | C[Mg]Cl
reactant | superhydride | 40.7 mmol, 40.7 mL | [Li+].[B-](CC)(CC)CC
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | 7-bromo-3-(2-methoxy-2-methylpropoxy)-5-methyl-5H-chromeno[2,3-b]pyridin-5-ol | BrC=1C=C2C(C=3C(=NC=C(C3)OCC(C)(C)OC)OC2=CC1)(O)C | C18H20BrNO4
